US07494989B2
1) Synthesis of 3-(3-chlorophenyl)-2-[(2-cyclohexylethoxy) acetyl]-2-propenoic acid 3,3-diphenylpropyl ester
1.23 g (2.90 mmol) of 4-(2-cyclohexylethoxy)-3-oxobutanoic acid 3,3-diphenylpropyl ester, 0.33 ml (2.91 mmol) of 3-chlorobenzaldehyde, 0.05 ml (0.51 mmol) of piperidine and catalytic amount of p-toluenesulfonic acid were refluxed in 20 ml of benzene removing water for 1.5 hours. After adding ethyl acetate, the organic layer was washed with 1 N hydrochloric acid and saturated aqueous sodium hydrogencarbonate solution, and dried over anhydrous sodium sulfate and then concentrated under reduced pressure to obtain the title compound.

reactant | 4-(2-cyclohexylethoxy)-3-oxobutanoic acid 3,3-diphenylpropyl ester | 2.90 mmol, 1.23 g | C1(=CC=CC=C1)C(CCOC(CC(COCCC1CCCCC1)=O)=O)C1=CC=CC=C1 | C27H34O4
reactant | 3-chlorobenzaldehyde | 2.91 mmol, 0.33 ml | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | piperidine | 0.51 mmol, 0.05 ml | N1CCCCC1 | C5H11N
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 3-(3-chlorophenyl)-2-[(2-cyclohexylethoxy) acetyl]-2-propenoic acid 3,3-diphenylpropyl ester | quantitative yield | C1(=CC=CC=C1)C(CCOC(C(=CC1=CC(=CC=C1)Cl)C(COCCC1CCCCC1)=O)=O)C1=CC=CC=C1 | C34H37ClO4
